US08202865B2
Step 3: Methyl 5-[amino(hydroxyimino)methyl]-2-chlorobenzoate
Methyl 2-chloro-5-cyanobenzoate (1.55 g; 7.92 mmol; 1 eq.) was suspended in EtOH (31 mL). Hydroxylamine (1.17 mL; 39.62 mmol; 5 eq.) was added in one portion. The reaction mixture was stirred at RT for 6 hours. The mixture was concentrated affording the title compound as a beige solid (1.65 g, 91%). 1H NMR (DMSO-d6, 300 MHz) δ 9.92 (br s, 1H), 8.19-8.18 (m, 1H), 7.92-7.90 (m, 1H), 7.68-7.65 (m, 1H), 6.04 (br s, 2H), 3.95 (s, 3H). LC/MS (Method B): 229.0 (M+H)+; 227.0 (M−H)−.

reactant | Methyl 2-chloro-5-cyanobenzoate | 7.92 mmol, 1.55 g, 1 eq. | ClC1=C(C(=O)OC)C=C(C=C1)C#N | C9H6ClNO2
reactant | Hydroxylamine | 39.62 mmol, 1.17 mL, 5 eq. | NO | H3NO
solvent | EtOH | 31 mL | CCO | C2H6O
product | Methyl 5-[amino(hydroxyimino)methyl]-2-chlorobenzoate | 1.65 g, 91% | NC(C=1C=CC(=C(C(=O)OC)C1)Cl)=NO | C9H9ClN2O3
